* 4×4 Resistive Crossbar Matrix–Vector Multiplication Example

*****************************
* 1) Input voltage sources *
*****************************
V1 row1 0 DC 0.1    ; V1 = 0.1 V
V2 row2 0 DC 0.2    ; V2 = 0.2 V
V3 row3 0 DC 0.3    ; V3 = 0.3 V
V4 row4 0 DC 0.4    ; V4 = 0.4 V

********************************************
* 2) Crossbar resistors (the weight matrix)*
********************************************
R11 row1 col1 10k
R12 row1 col2 20k
R13 row1 col3 30k
R14 row1 col4 40k

R21 row2 col1 15k
R22 row2 col2 25k
R23 row2 col3 35k
R24 row2 col4 45k

R31 row3 col1 12k
R32 row3 col2 22k
R33 row3 col3 32k
R34 row3 col4 42k

R41 row4 col1 18k
R42 row4 col2 28k
R43 row4 col3 38k
R44 row4 col4 48k

************************************************
* 3) “Ammeter” zero-volt sources on each column *
************************************************
Vcol1 col1 0 DC 0
Vcol2 col2 0 DC 0
Vcol3 col3 0 DC 0
Vcol4 col4 0 DC 0

********************************
* 4) Operating-point & measures *
********************************
.op
.meas op IOUT1 find I(Vcol1)
.meas op IOUT2 find I(Vcol2)
.meas op IOUT3 find I(Vcol3)
.meas op IOUT4 find I(Vcol4)

* Print the four column currents:
.print op I(Vcol1) I(Vcol2) I(Vcol3) I(Vcol4)

.end

